US05194437
(1,2,3,4-tetrahydronaphthalen-1-yl)-acetic acid was itself prepared from 1-ethoxycarbonylmethyl-1,2,3,4-tetrahydronaphthalene, which was obtained from 1-ethoxycarbonylmethyl-3,4-dihydronaphthalene [cf. J. Chem. Soc. (1960), 4115-4120], which was itself prepared from 1,2,3,4-tetrahydronaphthalen-1-one.

reactant | (1,2,3,4-tetrahydronaphthalen-1-yl)-acetic acid | C1(CCCC2=CC=CC=C12)CC(=O)O | C12H14O2
reactant | 1-ethoxycarbonylmethyl-1,2,3,4-tetrahydronaphthalene | C(C)OC(=O)CC1CCCC2=CC=CC=C12 | C14H18O2
product | 1-ethoxycarbonylmethyl-3,4-dihydronaphthalene | C(C)OC(=O)CC1=CCCC2=CC=CC=C12 | C14H16O2
